US06130217
2-Methyl-7-[2-(2-methyl-oxiranyl)-ethoxy]-benzothiazole
2-Methyl-7-hydroxybenzothiazoie was alkylated with 3-methyl-3-buten-1-ol according to Method VI. The product of this alkylation (0.30 g, 1.28 mmol) was dissolved in CH2Cl2 at about 0° C. to which was then added a solution of m-chloroperbenzoic acid (0.95 g, 5.53 mmol) in CH2Cl2. The reaction was allowed to warm to room temperature and after about 0.5 h the reaction was complete. 1N NaOH was added, the layers separated and the organic layer was washed with additional 1N NaOH and H2O. The organic layer was then dried over MgSO4 and the solvent was removed by rotary evaporation to give the title compound (0.20 g, 63%) as a yellow oil which was used in subsequent reactions without further purification.

reactant | 2-Methyl-7-hydroxybenzothiazoie | CC=1SC2=C(N1)C=CC=C2O | C8H7NOS
reactant | 3-methyl-3-buten-1-ol | CC(CCO)=C | C5H10O
reactant | m-chloroperbenzoic acid | 5.53 mmol, 0.95 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Methyl-7-[2-(2-methyl-oxiranyl)-ethoxy]-benzothiazole | 0.20 g, 63% | CC=1SC2=C(N1)C=CC=C2OCCC2(OC2)C | C13H15NO2S
